US04006159
Preparation of 1,2,4-triazole-3-carboxamide sodium salt
A 0.6 g. portion of 1,2,4-triazole-3-carboxamide is added to 5.4 ml. of a solution of 1N sodium methoxide in methanol contained in a test tube at room temperature. The mixture is shaken vigorously. Within about 1/2 to one minute most of the solid dissolves. The mixture is quickly filtered through a sintered glass funnel with vacuum. The light yellow filtrate is allowed to stand and deposits a colorless solid. A portion of methanol is added and the solid is collected, washed with methanol and air dried for one hour yielding 0.3 g. of product.

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | sodium methoxide | 1N | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1,2,4-triazole-3-carboxamide sodium salt | [Na+].N1N=C(N=C1)C(=O)[NH-] | InChI=1S/C3H4N4O.Na/c4-2(8)3-5-1-6-7-3;/h1H,(H3,4,5,6,7,8);/q;+1/p-1
